US05714138
EXAMPLE 2: Preparation of poly-α,β-(hydroxyethyl)-D,L-aspartamide-co-α,β-(dimethylaminoethyl)-D, L-aspartamide (75:25)
15 g (155 mmol) of polyanhydroaspartic acid (Mvisc. =19,000) are dissolved in 80 ml of DMF (anhydrous), if appropriate with gentle warming. First, 3.40 g (39 mmol) of freshly distilled dimethylaminoethylamine diluted in 20 ml of DMF are added dropwise to this solution and 1 g of anhydrous 2-hydroxypyridine is added and the mixture is stirred at room temperature for one day. 10 g (164 mmol) of aminoethanol are then added. After stirring for a further day the mixture is warmed at 50° C. for 2 h and repeatedly precipitated in anhydrous acetone.

reactant | dimethylaminoethylamine | CN(C)CCN | C4H12N2
reactant | 2-hydroxypyridine | 1 g | OC1=NC=CC=C1 | C5H5NO
reactant | aminoethanol | 164 mmol, 10 g | NC(C)O | C2H7NO
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | L-aspartamide | N[C@@H](CC(=O)N)C(=O)N | C4H9N3O2
